CMOS 4-to-1 MUX
*
*    Copyright 2020 Pankajkumar Patro Licensed under the
*    Educational Community License, Version 2.0 (the "License"); you may
*    not use this file except in compliance with the License. You may
*    obtain a copy of the License at
*    
*    http://www.osedu.org/licenses/ECL-2.0
*
*    Unless required by applicable law or agreed to in writing,
*    software distributed under the License is distributed on an "AS IS"
*    BASIS, WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express
*    or implied. See the License for the specific language governing
*    permissions and limitations under the License.
*
***************************
* @Author: pankajpatro703 *
*  Released under ECL v2  *
***************************
vdd 1  0 dc    5v
va  a  0 pulse 0v 5v 0ns 10us 10us 0.50ms 1ms	*input A
vb  b  0 pulse 0v 5v 0ns 10us 10us 0.25ms 1ms	*input B
vc  c  0 pulse 0v 5v 0ns 10us 10us 0.12ms 1ms	*input C
vd  d  0 pulse 0v 5v 0ns 10us 10us 0.06ms 1ms	*input D
vs0 s0 0 pulse 0v 5v 0ns 10us 10us 2.00ms 4ms	*select S0
vs1 s1 0 pulse 0v 5v 0ns 10us 10us 1.00ms 2ms	*select S1
*output at node Y
**********
* n-mos *
mcn1 s01 s0  0   0  nmod w=10u l=2u
mcn2 s11 s1  0   0  nmod w=10u l=2u
mn11 y1  d   n11 0  nmod w=10u l=2u
mn12 n11 s0  n12 0  nmod w=10u l=2u
mn13 n12 s1  0   0  nmod w=10u l=2u
mn21 y1  c   n21 0  nmod w=10u l=2u
mn22 n21 s0  n22 0  nmod w=10u l=2u
mn23 n22 s11 0   0  nmod w=10u l=2u
mn31 y1  b   n31 0  nmod w=10u l=2u
mn32 n31 s01 n32 0  nmod w=10u l=2u
mn33 n32 s1  0   0  nmod w=10u l=2u
mn41 y1  a   n41 0  nmod w=10u l=2u
mn42 n41 s01 n42 0  nmod w=10u l=2u
mn43 n42 s11 0   0  nmod w=10u l=2u
mcn3 y   y1  0   0  nmod w=10u l=2u
* p-mos *
mcp1 s01 s0  1   1  pmod w=10u l=2u
mcp2 s11 s1  1   1  pmod w=10u l=2u
mp11 p1  a   1   1  pmod w=10u l=2u
mp12 p1  s01 1   1  pmod w=10u l=2u
mp13 p1  s11 1   1  pmod w=10u l=2u
mp21 p2  b   p1  1  pmod w=10u l=2u
mp22 p2  s01 p1  1  pmod w=10u l=2u
mp23 p2  s1  p1  1  pmod w=10u l=2u
mp31 p3  c   p2  1  pmod w=10u l=2u
mp32 p3  s0  p2  1  pmod w=10u l=2u
mp33 p3  s11 p2  1  pmod w=10u l=2u
mp41 y1  d   p3  1  pmod w=10u l=2u
mp42 y1  s0  p3  1  pmod w=10u l=2u
mp43 y1  s1  p3  1  pmod w=10u l=2u
mcp3 y   y1  1   1  pmod w=10u l=2u
**********
.model nmod nmos vto=1v  kp=20u
.model pmod pmos vto=-1v kp=20u
.tran 0ns 4ms 10us 100us
.control
run
plot v(y) v(s0) v(s1)
plot v(a) v(b) v(c) v(d)
.endc
.end
